US20010027196A1
4-[(2-Amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-methyl]-benzenesulfonamide
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 4-(aminoethyl)benzenesulfonamide hydrochloride and DBU in DME. ES-MS m/e (%): 369 ([M—H]−, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-(aminoethyl)benzenesulfonamide hydrochloride | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)N
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-[(2-Amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-methyl]-benzenesulfonamide | NC1=NC(=C(C(=N1)NCC1=CC=C(C=C1)S(=O)(=O)N)C#N)C=1OC=CC1 | C16H14N6O3S
